US09034866B2
9-Bromo-10-fluoro-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide (125 mg) was reacted with (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol similar to as described in General Procedure G to afford 14.5 mg of 10-fluoro-9-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl]-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide following reverse phase hplc purification. MS (Q1) 465 (M)+. 1H NMR (400 MHz, DMSO) δ 10.58 (q, J=4.1 Hz, 1H), 8.86 (d, J=7.5 Hz, 1H), 8.28 (s, 1H), 7.74 (s, 1H), 7.33 (d, J=10.0 Hz, 1H), 6.79 (s, 1H), 6.13-6.05 (m, 1H), 3.74-3.63 (m, 1H), 3.18-3.05 (m, 2H), 2.78 (d, J=4.6 Hz, 2H), 2.62 (s, 3H), 1.87 (s, 3H), 1.68 (d, J=12.3 Hz, 2H).

reactant | 9-Bromo-10-fluoro-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide | 125 mg | BrC=1C=C2C3=NC(=C(N3C3CC(C2=CC1F)C3)C(=O)NC)C(=O)N | C16H14BrFN4O2
reactant | (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
product | 10-fluoro-9-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl]-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide | 14.5 mg | FC1=C(C=C2C3=NC(=C(N3C3CC(C2=C1)C3)C(=O)NC)C(=O)N)C#C[C@](C)(C3=NOC(=N3)C)O | C23H21FN6O4
